US06743794B2
1,3-cyclohexanedicarboxylic Acid
To a suspension of isophthalic acid (500 g, 3 mol) in methanol (2.81) was added 5% Rhodium-on-alumina catalyst (50 g) and acetic acid (150 ml). The reaction mixture was shaken under hydrogen (50 psi) at room temperature overnight. The mixture was filtered through celite. To this solution was added fresh 5% Rhodium-on-alumina catalyst (25 g), and the mixture was shaken under 50 psi of hydrogen for another 24 hours. The final reaction mixture was filtered through celite. The solution was concentrated under vacuum to give 493 g of the title compound as a white powder (96.3% yield). m.p. 163-165° C.

reactant | isophthalic acid | 3 mol, 500 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
catalyst | Rhodium-on-alumina | 50 g | [Rh] | Rh
product | 1,3-cyclohexanedicarboxylic Acid | 493 g, 96.3% yield | C1(CC(CCC1)C(=O)O)C(=O)O | C8H12O4
